US03950380
By replacing in Example 1, step G, 3-benzylamino-5-chlorosulfonyl-4-phenylbenzoic acid with 5-chlorosulfonyl-3-nitro-4-phenylbenzoic acid, and following the procedure described, 3-nitro-4-phenyl-5-sulfamylbenzoic acid is obtained as a hydrate with a melting point of 119°-121° C.

reactant | 3-benzylamino-5-chlorosulfonyl-4-phenylbenzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(=O)(=O)Cl | C20H16ClNO4S
reactant | 5-chlorosulfonyl-3-nitro-4-phenylbenzoic acid | ClS(=O)(=O)C=1C(=C(C=C(C(=O)O)C1)[N+](=O)[O-])C1=CC=CC=C1 | C13H8ClNO6S
product | 3-nitro-4-phenyl-5-sulfamylbenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(N)(=O)=O | C13H10N2O6S
